US06143481
5 g of silver hexadecylsulfonate was mixed with 12.5 mL of a 10% by weight aqueous solution of the non-ionic surfactant NON 03 and 82.5 g of deionized water in a ball mill to produce a fine and stable dispersion of silver hexadecylsulfinate.

reactant | silver hexadecylsulfonate | 5 g | C(CCCCCCCCCCCCCCC)S(=O)(=O)[O-].[Ag+]
solvent | water | 82.5 g | O | H2O
product | silver hexadecylsulfinate | C(CCCCCCCCCCCCCCC)S(=O)[O-].[Ag+] | InChI=1S/C16H34O2S.Ag/c1-2-3-4-5-6-7-8-9-10-11-12-13-14-15-16-19(17)18;/h2-16H2,1H3,(H,17,18);/q;+1/p-1
